US07932246B2
Ethyl 2-(5-naphthalen-2-ylmethylhexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)pyrimidine-5-carboxylate
To a solution of ethyl 2-hexahydropyrrolo[3,4-c]pyrrol-2(1H)-ylpyrimidine-5-carboxylate (0.187 g, 0.71 mmol) in DCE (2 ml) was added 2-naphthaldehyde (0.205 g, 1.31 mmol) and sodium triacetoxyborohydride (0.274 g, 1.25 mmol). The mixture was stirred for 3 h, then poured into DCM (100 ml). Sat. NaHCO3 (100 ml) was added, and extracted with further DCM (100 ml). The combined organic extracts were dried (MgSO4), concentrated and purified by flash column chromatography to yield the title compound (0.266 g, 99%). 1H NMR (300 MHz, CDCl3) δ: 1.39 (3H, t, J=6.9 Hz), 2.59 (2H, d, J=6.9 Hz), 2.73-2.90 (2H, m), 2.94-3.10 (2H, m), 3.67 (2H, d, J=11.7 Hz), 3.82 (2H, s), 3.90 (2H, dd, J=8.1, 12 Hz), 4.37 (2H, q, J=7.2 Hz), 7.41-7.43 (3H, m), 7.74 (1H, s), 7.76-7.89 (3H, m), 8.88 (2H, s).

reactant | ethyl 2-hexahydropyrrolo[3,4-c]pyrrol-2(1H)-ylpyrimidine-5-carboxylate | 0.71 mmol, 0.187 g | C1N(CC2C1CNC2)C2=NC=C(C=N2)C(=O)OCC | C13H18N4O2
reactant | 2-naphthaldehyde | 1.31 mmol, 0.205 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | sodium triacetoxyborohydride | 1.25 mmol, 0.274 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | DCE | 2 ml | ClCCCl | C2H4Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(5-naphthalen-2-ylmethylhexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)pyrimidine-5-carboxylate | 0.266 g, 99% | C1=C(C=CC2=CC=CC=C12)CN1CC2C(C1)CN(C2)C2=NC=C(C=N2)C(=O)OCC | C24H26N4O2
